US06652834B2
C) 6,9-Bis(carboxymethyl)-3-(2,14-dioxo-18,21,24,27,30,33,36-heptaoxa-3,15-diazaheptatriacontanyl)-11,23-dioxo-27,30,33,36,39,42,45-heptaoxa-3,6,9,12,24-pentaazahexatetracontanoic acid
N,N-Bis[2-(2,6-dioxo-4-morpholinyl)ethyl]glycine (3.8 g; 10.6 mmol) (commercial product) was added to a suspension of 11-amino-N-(3,6,9,12,15,18,21-heptaoxadocosyl) undecan-amide (11.1 g; 21.1 mmol) in DMF (200 mL). After 15 min the reaction mixture became clear and the conversion was complete. The solvent was evaporated under reduced pressure, the residue was dissolved in CHCl3 and washed with H2O. The organic phase was separated, dried over Na2 SO4 and then evaporated under reduced pressure. The solid was dissolved in H2O and loaded onto an Amberlite® XAD-7 HP resin column (700 mL) and eluted with a CH3CN/H2O gradient. The fraction containing the product was evaporated to give the desired compound (11 g; 7.8 mmol). Yield 74%. HPLC: 85% (area %); K.F. 0.49%. Weight loss (120° C.): 0.45%. The 13C-NMR, MS and IR spectra were consistent with the structure.

reactant | N,N-Bis[2-(2,6-dioxo-4-morpholinyl)ethyl]glycine | 10.6 mmol, 3.8 g | O=C1CN(CC(O1)=O)CCN(CC(=O)O)CCN1CC(OC(C1)=O)=O | C14H19N3O8
reactant | 11-amino-N-(3,6,9,12,15,18,21-heptaoxadocosyl) undecan-amide | 21.1 mmol, 11.1 g | NCCCCCCCCCCC(=O)NCCOCCOCCOCCOCCOCCOCCOC | C26H54N2O8
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 6,9-Bis(carboxymethyl)-3-(2,14-dioxo-18,21,24,27,30,33,36-heptaoxa-3,15-diazaheptatriacontanyl)-11,23-dioxo-27,30,33,36,39,42,45-heptaoxa-3,6,9,12,24-pentaazahexatetracontanoic acid | 7.8 mmol, 11 g, Yield 74% | C(=O)(O)CN(CCN(CC(=O)O)CC(NCCCCCCCCCCC(NCCOCCOCCOCCOCCOCCOCCOC)=O)=O)CCN(CC(NCCCCCCCCCCC(NCCOCCOCCOCCOCCOCCOCCOC)=O)=O)CC(=O)O | C66H127N7O24
